US07253285B2
To a solution of 6-bromo-4-chloro-quinoline (12.12 g, 50 mmol) in methanol (200 mL) was added sodium methoxide (13.50 g, 250 mmol) at room temperature. Then, the reaction mixture was heated to 120° C. for 15 h in a sealed reaction flask. After cooling to room temperature, the methanol was removed under the vacuum and the residue was diluted with water. Then, the solids were collected by filtration and washed with water. After drying in air, 10.8 g (90.8% yield) of 6-bromo-4-methoxy-quinoline was isolated as a white solid which can be crystallized from acetonitrile: EI-HRMS m/e calcd for C10H8BrNO (M+) 236.9789, found 236.9784.

reactant | 6-bromo-4-chloro-quinoline | 50 mmol, 12.12 g | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | sodium methoxide | 250 mmol, 13.50 g | C[O-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 6-bromo-4-methoxy-quinoline | 10.8 g, 90.8% yield | BrC=1C=C2C(=CC=NC2=CC1)OC | C10H8BrNO
